US08859566B2
A mixture of 8-{1-[3-(4-Fluoro-phenyl)-prop-2-ynyl]-1H-pyrazol-4-yl}-1-propyl-2-pyrrolidin-1-yl-7-(2-trimethylsilanyl-ethoxymethyl)-1,7-dihydro-purin-6-one (0.025 g, 0.043 mmol), 2N HCl (0.5 ml), ethanol (2 ml) was heated at 85° C. for 2 hours. The mixture was cooled and the solvent was evaporated. The residue was washed with n-pentane to obtain pure 8-{1-[3-(4-Fluoro-phenyl)-prop-2-ynyl]-1H-pyrazol-4-yl}-1-propyl-2-pyrrolidin-1-yl-1,7-dihydro-purin-6-one (0.021 g, quantitative) as yellow solid.

reactant | 8-{1-[3-(4-Fluoro-phenyl)-prop-2-ynyl]-1H-pyrazol-4-yl}-1-propyl-2-pyrrolidin-1-yl-7-(2-trimethylsilanyl-ethoxymethyl)-1,7-dihydro-purin-6-one | 0.043 mmol, 0.025 g | FC1=CC=C(C=C1)C#CCN1N=CC(=C1)C1=NC=2N=C(N(C(C2N1COCC[Si](C)(C)C)=O)CCC)N1CCCC1 | C30H38FN7O2Si
reactant | HCl | 2N, 0.5 ml | Cl | ClH
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 8-{1-[3-(4-Fluoro-phenyl)-prop-2-ynyl]-1H-pyrazol-4-yl}-1-propyl-2-pyrrolidin-1-yl-1,7-dihydro-purin-6-one | 0.021 g | FC1=CC=C(C=C1)C#CCN1N=CC(=C1)C1=NC=2N=C(N(C(C2N1)=O)CCC)N1CCCC1 | C24H24FN7O
